US08242130B2
1-(2,3-Dimethoxy-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione (3.1 g, 9.86 mmol) was dissolved in mixture of Hi (10 mL) and AcOH (10 mL) and heated at 110° C. for 4 days. The reaction mixture was cooled to rt, diluted with water and solids were filtered. The solid product was washed with water, dried and purified by column chromatography, using 30% EtOAc in dichloromethane to give 1.3 g (52%) of 8-hydroxy-2-(4-hydroxy-phenyl)-4H-chromen-4-one. MS (ES) m/z: 255.08 (M+1), and 154.15.

reactant | 1-(2,3-Dimethoxy-phenyl)-3-(4-methoxy-phenyl)-propane-1,3-dione | 9.86 mmol, 3.1 g | COC1=C(C=CC=C1OC)C(CC(=O)C1=CC=C(C=C1)OC)=O | C18H18O5
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 8-hydroxy-2-(4-hydroxy-phenyl)-4H-chromen-4-one | 1.3 g, 52% | OC=1C=CC=C2C(C=C(OC12)C1=CC=C(C=C1)O)=O | C15H10O4
